US05194442
4-Phenoxybutyryl chloride
252.3 g (1.40 mole) of 4-phenoxybutyric acid, 154 ml (2.1 mole) of thionyl chloride and a few drops of dimethylformamide are heated under reflux with exclusion of moisture. After evolution of gas has ceased (about 2 hours), the mixture is fractionated under water pump vacuum. The acid chloride distils at 149°-151° C.

reactant | 4-phenoxybutyric acid | 1.40 mole, 252.3 g | O(C1=CC=CC=C1)CCCC(=O)O | C10H12O3
reactant | thionyl chloride | 2.1 mole, 154 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
product | 4-Phenoxybutyryl chloride | O(C1=CC=CC=C1)CCCC(=O)Cl | C10H11ClO2
